US04558043
A mixture of 11.4 g (57 mmole) of 1-(3-amino-4-chlorophenoxy)-2-propanone, 10 ml of concentrated hydrochloric acid and 150 ml of ethanol is boiled under reflux for 14 hours and subsequently concentrated by evaporation in vacuo. Ice-water is added to the residue and the whole is rendered alkaline with 3N sodium hydroxide solution and extracted with ether. The crude product obtained after drying and concentration by evaporation of the organic phase is chromatographed over silica gel with petroleum ether/methylene chloride. Recrystallisation of the pure fractions from ether/petroleum ether yields 6-amino-5-chloro-3-methylbenzofuran having a melting point of 73°-75°.

reactant | 1-(3-amino-4-chlorophenoxy)-2-propanone | 57 mmole, 11.4 g | NC=1C=C(OCC(C)=O)C=CC1Cl | C9H10ClNO2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6-amino-5-chloro-3-methylbenzofuran | NC1=CC2=C(C(=CO2)C)C=C1Cl | C9H8ClNO
